US03962441
2-(3-Nitro-4-hydroxyphenyl) propionitrile (123.8 g., 0.64 mole.) was suspended in absolute ethanol (950 ml.) and added during 20 minutes, with cooling, to a solution of stannous chloride dihydrate (437.8 g., 1.94 mole.) in concentrated hydrochloride acid (591 ml., 7 mole.). The addition was made at such a rate that the temperature of the reaction mixture did not exceed 20°C. Stirring of the mixture was continued for a further 19 hours at room temperature. The resulting solution, together with ice (1.75 kg.) was added during one hour to a cooled solution of sodium hydroxide (650 g.) in water (600 ml.). The temperature of the reaction mixture was maintained at 15° - 20°C during the addition. The mixture was stirred for a further 1 hour, and the pH then adjusted to 6 by the addition of concentrated hydrochloric acid. The resulting suspension was filtered and the filtrate saturated with sodium chloride, then extracted with ether (×6). The combined ether extracts were dried (Na2SO4) and evaporated to leave a solid (69.15 g.) which was suspended in chloroform and extracted with 2N-hydrochloric acid (×6). The combined acid extracts were neutralised to pH 7-8 by the addition of sodiium bicarbonate. The resulting suspension was extracted with ether (×4). The combined ether extracts were washed twice with water, dried (Na2SO4), and evaporated to yield 2-(3-amino-4-hydroxyphenyl) propionitrile was a light brown solid (62.85 g.), m.p. 110° - 112°C.

reactant | 2-(3-Nitro-4-hydroxyphenyl) propionitrile | 0.64 mole, 123.8 g | [N+](=O)([O-])C=1C=C(C=CC1O)C(C#N)C | C9H8N2O3
reactant | hydrochloride | 7 mole, 591 ml | Cl | ClH
reactant | sodium hydroxide | 650 g | [OH-].[Na+]
solvent | ethanol | 950 ml | C(C)O | C2H6O
solvent | water | 600 ml | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-amino-4-hydroxyphenyl) propionitrile | NC=1C=C(C=CC1O)C(C#N)C | C9H10N2O
